US04041173
A mixture of 103.2 g. of p-bromophenylacetic acid, 77.4 g. of benzene-1,2,4-tricarboxylic anhydride and 1.5 g. of sodium acetate was heated to 275° for 2 hours. The residue was dissolved in 1600 ml of hot dimethylformamide and the solution diluted with 400 ml of water, then cooled. The solution was then filtered to afford a mixture of 3-(p-bromobenzylidene)phthalide-5- and -6-carboxylic acids. 80 g. of this mixture was refluxed for 72 hours in 160 ml of acetic anhydride and 240 ml of 57% aqueous hydriodic acid containing 35.2 g. of red phosphorus. The mixture was cooled in ice and diluted with 1000 water. The solution was filtered and the residue dissolved in 800 ml dimethylformamide and filtered. The filtrate was evaporated to yield a residue which upon recrystallization from benzene: ethanol (3:1) yielded 4-(p-bromophenethyl)benzene-1,3-dicarboxylic acid. The mother liquors were evaporated and the residue recrystallized from ethyl acetate to afford 2-(p-bromophenethyl)benzene-1,4-dicarboxylic acid. 8.5 G. of 2-(p-bromophenethyl)-benzene-1,4-dicarboxylic acid was stirred at 170° for 6 hours in a mixture of 40 ml of polyphosphonic acid and 30 ml of tetrahydrothiophene-1,1-dioxide. The mixture was then poured into water and the product filtered off and recrystallized from aqueous dimethylformamide to yield 2-carboxy-7-bromo-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene mp 252°-254°.

reactant | 2-(p-bromophenethyl)-benzene-1,4-dicarboxylic acid | BrC1=CC=C(CCC2=C(C=CC(=C2)C(=O)O)C(=O)O)C=C1 | C16H13BrO4
reactant | water | O | H2O
solvent | tetrahydrothiophene-1,1-dioxide | 30 ml | S1(CCCC1)(=O)=O | C4H8O2S
product | 2-carboxy-7-bromo-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene | C(=O)(O)C1=CC2=C(C(C3=C(CC2)C=CC(=C3)Br)=O)C=C1 | C16H11BrO3
